US07176231B2
(1) 1-acetyl-5-propionyl-2-indolinone
Prepared from 5-propionyl-2-indolinone and acetic anhydride

reactant | 5-propionyl-2-indolinone | C(CC)(=O)C=1C=C2CC(NC2=CC1)=O | C11H11NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-5-propionyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(CC)=O)=O | C13H13NO3
